US07119120B2
5-Fluoro-2-methoxy-benzylamine hydrochloride
This compound was prepared using the procedure described in Example 74, using 2-chloro-N-(2-methoxy-5-trifluoromethoxy-benzyl)-acetamide, instead of 2-chloro-N-(2-hydroxy-4-trifluoromethoxy-benzyl)-acetamide. 1H NMR (CD3OD) δ=7.15–7.11 (2H, m), 7.06–7.03 (1H, m), 4.06 (2H, s), 3.88 (3H, s).

reactant | 2-chloro-N-(2-methoxy-5-trifluoromethoxy-benzyl)-acetamide | ClCC(=O)NCC1=C(C=CC(=C1)OC(F)(F)F)OC | C11H11ClF3NO3
reactant | 2-chloro-N-(2-hydroxy-4-trifluoromethoxy-benzyl)-acetamide | ClCC(=O)NCC1=C(C=C(C=C1)OC(F)(F)F)O | C10H9ClF3NO3
product | 5-Fluoro-2-methoxy-benzylamine hydrochloride | Cl.FC=1C=CC(=C(CN)C1)OC | InChI=1S/C8H10FNO.ClH/c1-11-8-3-2-7(9)4-6(8)5-10;/h2-4H,5,10H2,1H3;1H
